* Resistor model "short" defined with a fixed resistance of 0.01 ohms.
.model short r r=0.01
* If "short" is called as a subcircuit, then this needs to be supported, too.
.subckt short 1 2 SUB l=0 w=0
R0 1 2 short
.ends
* For diodes called as a subcircuit
* (backwards compatible with earlier PDK version)
.subckt sky130_fd_pr__diode_pw2nd N P a=0 p=0
D0 N P sky130_fd_pr__diode_pw2nd_05v5 area=a pj=p
.ends
* (corresponds to current PDK)
.subckt sky130_fd_pr__diode_pw2nd_05v5 N P area=0 perimeter=0
D0 N P sky130_fd_pr__diode_pw2nd_05v5 area=area pj=perimeter
.ends
* Subcircuit definition HV diffusion resistors

.subckt sky130_fd_pr__res_generic_nd__hv t1 t2 b w=1 l=1
r0 t1 t2 sky130_fd_pr__res_generic_nd__hv w = {w} l = {l}
d0 b t1 sky130_fd_pr__diode_pw2nd_11v0 area='w*l*0.5' pj='w+l'
d1 b t2 sky130_fd_pr__diode_pw2nd_11v0 area='w*l*0.5' pj='w+l'
.ends sky130_fd_pr__res_generic_nd__hv

.subckt sky130_fd_pr__res_generic_pd__hv t1 t2 b w=1 l=1
r0 t1 t2 sky130_fd_pr__res_generic_pd__hv w = {w} l = {l}
d0 t1 b sky130_fd_pr__diode_pd2nw_11v0 area='w*l*0.5' pj='w+l'
d1 t1 b sky130_fd_pr__diode_pd2nw_11v0 area='w*l*0.5' pj='w+l'
.ends sky130_fd_pr__res_generic_pd__hv
* Resistor model "short" defined with a fixed resistance of 0.01 ohms.
.model short r r=0.01
* If "short" is called as a subcircuit, then this needs to be supported, too.
.subckt short 1 2 SUB l=0 w=0
R0 1 2 short
.ends
* For diodes called as a subcircuit
* (backwards compatible with earlier PDK version)
.subckt sky130_fd_pr__diode_pw2nd N P a=0 p=0
D0 N P sky130_fd_pr__diode_pw2nd_05v5 area=a pj=p
.ends
* (corresponds to current PDK)
.subckt sky130_fd_pr__diode_pw2nd_05v5 N P area=0 perimeter=0
D0 N P sky130_fd_pr__diode_pw2nd_05v5 area=area pj=perimeter
.ends
* Subcircuit definition HV diffusion resistors

.subckt sky130_fd_pr__res_generic_nd__hv t1 t2 b w=1 l=1
r0 t1 t2 sky130_fd_pr__res_generic_nd__hv w = {w} l = {l}
d0 b t1 sky130_fd_pr__diode_pw2nd_11v0 area='w*l*0.5' pj='w+l'
d1 b t2 sky130_fd_pr__diode_pw2nd_11v0 area='w*l*0.5' pj='w+l'
.ends sky130_fd_pr__res_generic_nd__hv

.subckt sky130_fd_pr__res_generic_pd__hv t1 t2 b w=1 l=1
r0 t1 t2 sky130_fd_pr__res_generic_pd__hv w = {w} l = {l}
d0 t1 b sky130_fd_pr__diode_pd2nw_11v0 area='w*l*0.5' pj='w+l'
d1 t1 b sky130_fd_pr__diode_pd2nw_11v0 area='w*l*0.5' pj='w+l'
.ends sky130_fd_pr__res_generic_pd__hv
